US07820649B2
In a capped 20 mL scintillation vial, a solution of 2-amino-5-bromo-N-(tert-butylcarbamoylmethyl)benzamide (0.65 g, 2.0 mmol), 3-chlorobenzaldehyde (0.27 mL, 2.4 mmol) and catalytic glacial acetic acid (2 drops) in anhydrous ethanol (10 mL) was heated with stirring at 85° C. for 16 h. The resulting white suspension was cooled to room temperature, the white solid collected by suction filtration and washed with cold EtOH to give 2-[6-bromo-2-(3-chlorophenyl)-4-oxo-1,4-dihydro-2H-quinazolin-3-yl]-N-tert-butylacetamide (0.53 g, 1.21 mmol, 58%).

reactant | 2-amino-5-bromo-N-(tert-butylcarbamoylmethyl)benzamide | 2.0 mmol, 0.65 g | NC1=C(C(=O)NCC(NC(C)(C)C)=O)C=C(C=C1)Br | C13H18BrN3O2
reactant | 3-chlorobenzaldehyde | 2.4 mmol, 0.27 mL | ClC=1C=C(C=O)C=CC1 | C7H5ClO
catalyst | acetic acid | 2 drops | C(C)(=O)O | C2H4O2
solvent | ethanol | 10 mL | C(C)O | C2H6O
product | 2-[6-bromo-2-(3-chlorophenyl)-4-oxo-1,4-dihydro-2H-quinazolin-3-yl]-N-tert-butylacetamide | 1.21 mmol, 0.53 g, 58% | BrC=1C=C2C(N(C(NC2=CC1)C1=CC(=CC=C1)Cl)CC(=O)NC(C)(C)C)=O | C20H21BrClN3O2
